US04072499
A stirred slurry containing 15 grams of phthalic anhydride, 13 grams of 3-amino-2-chloropyridine, one gram of toluenesulfonic acid and 200 ml. of o-dichlorobenzene was heated at reflux for 6 hours. During this heating period 100 ml. of solvent and 1.8 ml. of water were removed. After cooling to 30° C., 50 ml. of heptane and 10 ml. of water were added and stirring was continued. The solid was collected by filtration and air dried. A 99 percent yield of N-(2-chloro-3-pyridyl) phthalimide, m.p. 156°-7° C., was obtained.

reactant | phthalic anhydride | 15 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 3-amino-2-chloropyridine | 13 grams | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | toluenesulfonic acid | one gram | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-(2-chloro-3-pyridyl) phthalimide | 99 percent yield | ClC1=NC=CC=C1N1C(C=2C(C1=O)=CC=CC2)=O | C13H7ClN2O2
